US05140009
To a solution of Cbz-Pro (1.25 g), semicarbazide hydrochloride (5.5 g), and HOBt (6.75 g) in DMF (100 mL) is added triethylamine (7.5 mL) and DCC (10.5 g) at 0° C. with stirring. The reaction is stirred at 0° C. for 24 hours. The precipitate is filtered and the filtrate is concentrated in vacuo. The residue is triturated with saturated NaHCO3 solution, filtered, washed with water and dried to give Cbz-Pro-azaGlyNH2. Cbz-Pro-azaGlyNH2 (10 g) is catalytically hydrogenated in (1:1) methanol/DMF at pH 4.5 in the presence of Pd catalyst. At the end of the hydrogenation the catalyst is filtered and the filtrate is concentrated in vacuo to give H-Pro-azaGlyNH2.HCl. To a solution of H-Pro-azaGlyNH2.HCl (2.08 g), HOBt (1.63 g), and Boc-Lys(N,N-epsilon-isopropyl,Cbz)-OH (1.26 g) in DMF (40 mL), DCC (2.1 g) is added with stirring at 0° C. for 2 hours and then at 4° C. for 24 hours. After workup and trituration with ether Boc-Lys(N,N-epsilon-isopropyl,Cbz)-Pro-azaGlyNH2 is obtained.

reactant | Cbz-Pro | 1.25 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | semicarbazide hydrochloride | 5.5 g | Cl.NNC(=O)N
reactant | HOBt | 6.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 10.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 7.5 mL | C(C)N(CC)CC | C6H15N
product | Cbz-Pro-azaGlyNH2 | N1([C@H](C(=O)NNC(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C14H18N4O4
